US09085555B2
A. 3-Iodo-1H-pyrazolo[3,4-c]pyridine
To a solution of 1H-pyrazolo[3,4-c]pyridine [27]-47-6] (4.00 g, 33.6 mmol) in DMF (50 mL) were added iodine (12.8 g, 50.4 mmol) and potassium hydroxide (4.70 g, 84.0 mmol). The reaction mixture was stirred at RT for 16 h. The mixture was diluted with 10% sodium thiosulfate and water, then extracted (3×) with EtOAc. The combined organic extracts were washed with brine, then dried (Phase separator) and concentrated under vacuum. MS (LC/MS): 246.0 [M+H]+; tR (HPLC conditions k): 0.48 min.

reactant | 1H-pyrazolo[3,4-c]pyridine | N1N=CC=2C1=CN=CC2 | C6H5N3
reactant | iodine | 50.4 mmol, 12.8 g | II | I2
reactant | potassium hydroxide | 84.0 mmol, 4.70 g | [OH-].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 3-Iodo-1H-pyrazolo[3,4-c]pyridine | IC1=NNC2=CN=CC=C21 | C6H4IN3
